US05637720
A 250-mL round-bottom flask equipped with a dry-ice condenser and drying tube filled with potassium hydroxide pellets, was charged with 50.0 g (0.2822 mol) of diethyl cyanomethyl phosphonate (Aldrich Lot HY0151136Y), 79.0 mL (0.5668 mol) of triethylamine and 53.0 mL (0.6553 mol) of pyridine. To the resulting solution was added 3.3 g (0.390 mol) of hydrogen sulfide via submerged tube. The reaction flask was stoppered and stirred overnight (small samples were withdrawn, evaporated at 55° C. and 10 torr, redissolved in CDCl3 and checked by NMR spectroscopy for completion of reaction). After about 16 hours, the reaction mixture was evaporated at 55° C. and 10 torr, the crystalline residue was taken up in 200 mL of dichloromethane and the resulting solution was washed with 200 mL of a 1:1 water-saturated sodium chloride solution. The aqueous phase was reextracted with 100 mL of dichloromethane. 50 mL of 1:1 water-saturated sodium chloride solution was used to wash the first extract and then the second. The extracts were combined, dried over sodium sulfate, and evaporated to yield 50.46 g of (2-amino-2-thioxoethyl)phosphonic acid diethyl ester as an off-white, crystalline material after drying at 45° C. and 10 tort, 85% yield.

reactant | diethyl cyanomethyl phosphonate | 0.2822 mol, 50.0 g | CCOP(=O)(CC#N)OCC | C6H12NO3P
reactant | triethylamine | 0.5668 mol, 79.0 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine | 0.6553 mol, 53.0 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrogen sulfide | 0.390 mol, 3.3 g | S | H2S
product | (2-amino-2-thioxoethyl)phosphonic acid diethyl ester | 50.46 g, 85% yield | C(C)OP(OCC)(=O)CC(=S)N | C6H14NO3PS
